US07691863B2
d) 6-Propoxy-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid ((S)-1-hydroxymethyl-3-methyl-butyl)-amide
A mixture of 6 mg (0.024 mmol) 6-propoxy-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid, 9.3 mg (0.029 mmol) TBTU, 9.3 mg (0.072 mmol) DIPEA and 4.2 mg (0.036 mmol) (S)-2-amino-4-methyl-pentan-1-ol (commercially available) in 1 mL DMF was shaken at room temperature for 16 h. After addition of formic acid the mixture was subjected to purification by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and formic acid. The combined product fractions were evaporated to yield 2 mg (24%) of the title compound. m/z (ES+): 351.5 (M+H).

reactant | 6-propoxy-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid | 0.024 mmol, 6 mg | C(CC)OC1=C(N=CC(=N1)C(=O)O)N1CCCC1 | C12H17N3O3
reactant | TBTU | 0.029 mmol, 9.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIPEA | 0.072 mmol, 9.3 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-amino-4-methyl-pentan-1-ol | 0.036 mmol, 4.2 mg | N[C@H](CO)CC(C)C | C6H15NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | formic acid | C(=O)O | CH2O2
product | 6-Propoxy-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid ((S)-1-hydroxymethyl-3-methyl-butyl)-amide | 2 mg, 24% | OC[C@H](CC(C)C)NC(=O)C1=NC(=C(N=C1)N1CCCC1)OCCC | C18H30N4O3
